US07652041B2
Preparation of 4-[3-(3-{[4-chloro-3-(trifluoromethyl)phenyl]amino}-3-oxopropyl)phenoxy]-N-methylpyridine-2-carboxamide (A-7)
A mixture of N-[4-chloro-3-(trifluoromethyl)phenyl]-3-(3-hydroxyphenyl)propanamide (585 mg, 1.70 mmol), 4-chloro-N-methylpyridine-2-carboxamide (318 mg, 1.87 mmol), and Cs2CO3 (7.76 g, 8.5 mmol) in DMF (3.4 mL) was heated at 100° C. overnight. The reaction mixture was concentrated and diluted with EtOAc. The organic solution was washed with brine, dried over MgSO4, filtered, and concentrated. The residue was purified by column chromatography (SiO2, 0-30% EtOAc in hexanes) to give the product as a white solid. 1H NMR (400 MHz, CD3OD) δ: 8.62 (d, 1H), 8.26 (m, 1H), 7.89-7.96 (m, 1H), 7.71-7.74 (m, 1H), 7.63 (t, 1H), 7.41-7.47 (m, 1H), 7.28 (br s, 1H), 7.17-7.24 (m, 2H), 2.58 (t, 2H), 3.15 (s, 3H), and 2.93 (t, 2H). LCMS, AA: Rt=2.05 min, [MH+ 478.3].

reactant | N-[4-chloro-3-(trifluoromethyl)phenyl]-3-(3-hydroxyphenyl)propanamide | 1.70 mmol, 585 mg | ClC1=C(C=C(C=C1)NC(CCC1=CC(=CC=C1)O)=O)C(F)(F)F | C16H13ClF3NO2
reactant | 4-chloro-N-methylpyridine-2-carboxamide | 1.87 mmol, 318 mg | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
reactant | Cs2CO3 | 8.5 mmol, 7.76 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 3.4 mL | CN(C)C=O | C3H7NO
product | 4-[3-(3-{[4-chloro-3-(trifluoromethyl)phenyl]amino}-3-oxopropyl)phenoxy]-N-methylpyridine-2-carboxamide | ClC1=C(C=C(C=C1)NC(CCC=1C=C(OC2=CC(=NC=C2)C(=O)NC)C=CC1)=O)C(F)(F)F | C23H19ClF3N3O3
